US09034866B2
Into a 10-L 4-necked round-bottom flask purged and maintained with an inert atmosphere of argon was placed ethyl 9-Bromo-8-fluoro-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid ethyl ester (350 g, 940.33 mmol, 1.00 equiv), tetrahydrofuran (1.3 L), water (2.6 L), and LiOH (62 g, 2.59 mol, 2.73 equiv). The resulting solution was stirred at room temperature for 3 h, cooled to <10° C. and adjusted to pH=2-3 with hydrochloric acid. The precipitates were collected by filtration, washed with 4×1 L of water and dried to afford 260 g (80%) of 9-Bromo-8-fluoro-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid as a brown solid.

reactant | ethyl 9-Bromo-8-fluoro-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid ethyl ester | 940.33 mmol, 350 g, 1.00 equiv | C(C)OC(=O)C=1SC=2C(COC3=C(C2N1)C=C(C(=C3)F)Br)CC | C16H15BrFNO3S
reactant | tetrahydrofuran | 1.3 L | O1CCCC1 | C4H8O
reactant | LiOH | 2.59 mol, 62 g, 2.73 equiv | [Li+].[OH-]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 2.6 L | O | H2O
product | 9-Bromo-8-fluoro-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid | 260 g, 80% | BrC=1C(=CC2=C(C=3N=C(SC3CCO2)C(=O)O)C1)F | C12H7BrFNO3S
